US08710256B2
Preparation of 4-Bromo-3,5-dimethyl-benzonitrile
Trifluoro-methanesulfonic acid 4-bromo-3,5-dimethyl-phenyl ester (79.8 g, 0.24 mol) and AcCN (500 mL) were added to a 3 necked, 2.0 L round bottom flask equipped with mechanical stirrer, nitrogen inlet adapter, heating mantle and thermocouple. To the resulting solution were then added Pd(PPh3)4 (27.7 g, 0.024 mol), CuI (9.2 g, 0.048 mol) and Zn(CN)2 (79.8 g, 0.24 mol). The resulting mixture was stirred for 45 minutes at 50° C., DMAc (150 mL) was added and the temperature was increased to 80-88° C. and the mixture aged at this temperature overnight. The resulting mixture was cooled to ambient temperature, diluted with EtOAc (200 mL), and filtered with STAND SUPER-CEL 815520. The SUPER-CEL cake was rinsed with EtOAc (200 mL×6). The EtOAc solutions were combined and quenched with a 4:1:4 mixture of saturated NH4Cl: concentrated NH4OH:H2O (240 mL:60 mL:240 mL). The layers were separated and the organic layer was rinsed once with water (500 mL) and once with brine (500 mL), then concentrated to dryness in vacuo to yield a red thick oil. The title compound was crystallized from EtOAc (135 mL) and heptane (500 mL) to yield white-yellowish crystal.

reactant | Trifluoro-methanesulfonic acid 4-bromo-3,5-dimethyl-phenyl ester | 0.24 mol, 79.8 g | BrC1=C(C=C(C=C1C)OS(=O)(=O)C(F)(F)F)C | C9H8BrF3O3S
reactant | AcCN | 500 mL | C(=O)(C)C#N | C3H3NO
reactant | DMAc | 150 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.024 mol, 27.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.048 mol, 9.2 g | [Cu]I
catalyst | Zn(CN)2 | 0.24 mol, 79.8 g | [C-]#N.[C-]#N.[Zn+2]
product | 4-Bromo-3,5-dimethyl-benzonitrile | BrC1=C(C=C(C#N)C=C1C)C | C9H8BrN
